US05136043
112.6 g (1.0 mol) of chlorobenzene are added dropwise at 70° C. over a period of 1 hour to 122 g (1.05 mol) of chlorosulfonic acid. The mixture is then stirred at this temperature for 15 minutes. 1 g of sulfamic acid is then added and 180 g (1.5 mol) of thionyl chloride are added dropwise at 70° C. in the course of 2 hours. Working up is carried out as described in Example 1. 228.3 g of moist 4-chlorobenzenesulfonyl chloride having a water content of 12% are obtained. This corresponds to 200.9 g of 4chlorobenzenesulfonyl chloride (94.4% of theory), calculated as dry material, having a purity of 95%.

reactant | chlorobenzene | 1.0 mol, 112.6 g | ClC1=CC=CC=C1 | C6H5Cl
reactant | chlorosulfonic acid | 1.05 mol | ClS(=O)(=O)O | ClHO3S
reactant | thionyl chloride | 1.5 mol, 180 g | S(=O)(Cl)Cl | Cl2OS
catalyst | sulfamic acid | 1 g | S(N)(O)(=O)=O | H3NO3S
solvent | water | O | H2O
product | 4-chlorobenzenesulfonyl chloride | 228.3 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
